US09278915B2
Intermediate 36: methyl 3-(4-hydroxyphenyl)-3-(1,2-oxazol-3-yl)propanoate
To a 100 mL RB flask fitted with magnetic stirrer was charged 20 mL of methanol. To the stirred solvent added 3-(4-hydroxyphenyl)-3-(1,2-oxazol-3-yl) propanoic acid (1.48 g, 6.34 mmol) and cooled to 0° C., added 1 mL of methanesulfonic acid. The resulting mixture was stirred at reflux temperature for 2 h. After completion of the reaction (reaction monitored by TLC), the solvent was removed under reduced pressure and the crude mass was dissolved in ethyl acetate (25 mL). The organic layer was washed with water (50 mL), saturated brine solution (50 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as pale yellow color oil (0.69 g, Yield: 44%): MS (ESI, 120 eV): m/z=248.9 (M+H)+; 1H NMR (300 MHz, CDCl3): δ 8.20 (s, 1H), 7.01-7.04 (d, 2H), 6.66-6.69 (d, 2H), 6.00 (d, 1H), 5.56 (bro s, 1H), 4.46-4.51 (t, 1H), 3.56 (s, 3H), 3.17-3.25 (q, 1H), 2.83-2.91 (q, 1H).

reactant | 3-(4-hydroxyphenyl)-3-(1,2-oxazol-3-yl) propanoic acid | 6.34 mmol, 1.48 g | OC1=CC=C(C=C1)C(CC(=O)O)C1=NOC=C1 | C12H11NO4
reactant | methanesulfonic acid | 1 mL | CS(=O)(=O)O | CH4O3S
solvent | methanol | 20 mL | CO | CH4O
product | methyl 3-(4-hydroxyphenyl)-3-(1,2-oxazol-3-yl)propanoate | 0.69 g, Yield: 44% | OC1=CC=C(C=C1)C(CC(=O)OC)C1=NOC=C1 | C13H13NO4
